US04668693
To a solution of 0.86 g of 2-bromo-4,5-dichloroimidazole in 5 ml of dimethylformamide was added 96 mg of sodium hydride at room temperature, and after standing for 30 minutes, 0.32 g of methoxymethyl chloride was added dropwise. The resulting mixture was stirred at room temperature for 1 hour, and after adding 40 ml of water, extracted with 30 ml of diethyl ether. Extraction with diethyl ether was repeated two more times, and the ether extract was dried over magnesium sulfate and concentrated to obtain an oily product. This product was purified by column chromatography on silica gel to obtain 0.40 g of 1-methoxymethyl-2-bromo-4,5-dichloroimidazole.

reactant | 2-bromo-4,5-dichloroimidazole | 0.86 g | BrC=1NC(=C(N1)Cl)Cl | C3HBrCl2N2
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | methoxymethyl chloride | 0.32 g | COCCl | C2H5ClO
reactant | water | 40 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-methoxymethyl-2-bromo-4,5-dichloroimidazole | 0.40 g | COCN1C(=NC(=C1Cl)Cl)Br | C5H5BrCl2N2O
